US05811442
Under a nitrogen atmosphere, small pieces of sodium (1.48 g, 64.4 mmol) were added to benzyl alcohol (17.11 g, 158.0 mmol), and the mixture was stirred and heated at 70° C. for 18 h. To the stirring, viscous mixture was added 3,5-dibromopyridine (5.00 g, 21.1 mmol), copper powder (255 mg, 4.0 mmol), and benzyl alcohol (15 mL). The mixture was further heated at 100° C. for 48 h. The reaction mixture was allowed to cool to ambient temperature, diluted with water (50 mL), and extracted with diethyl ether (5×50 mL). The combined ether extracts were dried (Na2SO4), filtered, and concentrated by rotary evaporation. Vacuum distillation removed excess benzyl alcohol, bp 68°-72° C. at 2.6 mm Hg. Further vacuum distillation afforded 3.17 g (38.0%) of 3-bromo-5-benzyloxypyridine as a white, crystalline solid, mp 64°-66° C.

reactant | sodium | 64.4 mmol, 1.48 g | [Na] | Na
reactant | benzyl alcohol | 158.0 mmol, 17.11 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 3,5-dibromopyridine | 21.1 mmol, 5.00 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | benzyl alcohol | 15 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | water | 50 mL | O | H2O
catalyst | copper | 4.0 mmol, 255 mg | [Cu] | Cu
product | 3-bromo-5-benzyloxypyridine | 3.17 g, 38.0% | BrC=1C=NC=C(C1)OCC1=CC=CC=C1 | C12H10BrNO
